US07906546B2
To a stirred suspension of 3.222 g (36 mmol, 1.05 eq) of potassium ethoxide in 30 mL diethyl ether and 5 mL EtOH at 0° C., a solution of 3.849 g (52 mmol, 1.5 eq) ethyl formate and 6 g (35 mmol) (1-ethoxy-ethylideneamino)-acetic acid ethyl ester in 30 mL diethyl ether and 5 mL EtOH is then slowly added. The reaction mixture is stirred for one hour at 0° C. After addition of 40 mL diethyl ether, the reaction mixture was stirred at RT overnight. The reaction mixture was filtered and the obtained solid was washed with diethyl ether and dried under vaccum to yielded 5 g (60%) of potassium 2-ethoxycarbonyl-2-(1-ethoxy-ethylideneamino)-ethenolate as an orange solids.

reactant | potassium ethoxide | 36 mmol, 3.222 g, 1.05 eq | [O-]CC.[K+]
reactant | ethyl formate | 52 mmol, 3.849 g, 1.5 eq | C(=O)OCC | C3H6O2
reactant | (1-ethoxy-ethylideneamino)-acetic acid ethyl ester | 35 mmol, 6 g | C(C)OC(CN=C(C)OCC)=O | C8H15NO3
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | potassium 2-ethoxycarbonyl-2-(1-ethoxy-ethylideneamino)-ethenolate | 5 g, 60% | C(C)OC(=O)C(=C[O-])N=C(C)OCC.[K+] | InChI=1S/C9H15NO4.K/c1-4-13-7(3)10-8(6-11)9(12)14-5-2;/h6,11H,4-5H2,1-3H3;/q;+1/p-1
